US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-butylphenyl)carboxamide [69]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (54 mg) and commercially available 4-butyl benzoate (54 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (85 mg) was added, and the admixture was stirred at room temperature for 22 hours. The reaction mixture was then purified in the same manner as described in Example 51 to obtain 65 mg of the title compound (yield: 78%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-butyl benzoate | 54 mg | C(C1=CC=CC=C1)(=O)OCCCC | C11H14O2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 85 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-butylphenyl)carboxamide | 65 mg, yield: 78% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)CCCC | C28H28N2O4
